US07132449B2
HCl in dioxane (4.0M, 9 ml) was added drop-wise with stirring over 1 minute to (2R, 3S) (2-methyl-4-oxo-tetrahydrofuran-3-yl)carbamic acid tert-butyl ester (0.372 g, 1.73 mmol). The mixture was stirred for 20 minutes then the solvents evaporated in vacuo to leave a residue which was azeotroped with toluene (2×20 ml) to leave (4S, 5R) 4amino-5-methyl-dihydro-furan-3-one hydrochloride as a white solid (266 mg, 100%). HPLC-MS, Rt=0.419 mins, 116.1 [M+H]+).

reactant | HCl | Cl | ClH
reactant | (2R, 3S) (2-methyl-4-oxo-tetrahydrofuran-3-yl)carbamic acid tert-butyl ester | 1.73 mmol, 0.372 g | C(C)(C)(C)OC(N[C@H]1[C@H](OCC1=O)C)=O | C10H17NO4
solvent | dioxane | 4.0M, 9 ml | O1CCOCC1 | C4H8O2
product | (4S, 5R) 4amino-5-methyl-dihydro-furan-3-one hydrochloride | 266 mg, 100% | Cl.N[C@@H]1C(CO[C@@H]1C)=O | InChI=1S/C5H9NO2.ClH/c1-3-5(6)4(7)2-8-3;/h3,5H,2,6H2,1H3;1H/t3-,5+;/m1./s1
